US04297516
E-4-Triethylsilyloxymethyl-4-trimethylsilyloxy-1-tri-n-butylstannyl-1-octen
A mixture of 20.0 g. of 4-triethylsilyloxymethyl-4-trimethylsiloxy-1-octyne, 18.18 g. of tri-n-butylstannane and 70 mg. of azobisisobutyronitrile is stirred under argon and placed in a bath at 100° C. After 5 minutes an exotherm ensues. The mixture is heated at 130°-140° C. for one hour and then the excess tri-n-butylstannane is removed at 130° C. and reduced pressure. The residue is distilled at 130°-140° C., 0.03 mm. in a Kugelrohr apparatus, giving the desired product as a colorless liquid.

reactant | 4-triethylsilyloxymethyl-4-trimethylsiloxy-1-octyne | C(C)[Si](OCC(CC#C)(CCCC)O[Si](C)(C)C)(CC)CC | C18H38O2Si2
reactant | tri-n-butylstannane | C(CCC)[SnH](CCCC)CCCC
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | E-4-Triethylsilyloxymethyl-4-trimethylsilyloxy-1-tri-n-butylstannyl-1-octen | C(C)[Si](OCC(C/C=C/[Sn](CCCC)(CCCC)CCCC)(CCCC)O[Si](C)(C)C)(CC)CC | InChI=1S/C18H39O2Si2.3C4H9.Sn/c1-9-14-16-18(15-10-2,20-21(6,7)8)17-19-22(11-3,12-4)13-5;3*1-3-4-2;/h2,10H,9,11-17H2,1,3-8H3;3*1,3-4H2,2H3;
